US04014872
(3S,6R,7R)-3-Hydroxy-7-phenylacetamidocepham (29 mg.) in dimethylsulphoxide (1 ml.) was treated with acetic anhydride (0.2 ml.) After being kept at 24° for 16 hour the reaction mixture was partitioned between brine and ethyl acetate. Removal of the ethyl acetate gave (6R,7R)-3-keto-7-phenylacetamidocepham (22 mg.). T.1.c. and g.1.c. data were in agreement with those obtained on material prepared in Example 3a. EXAMPLE 3d

reactant | (3S,6R,7R)-3-Hydroxy-7-phenylacetamidocepham | 29 mg | O[C@@H]1CS[C@H]2N(C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C14H16N2O3S
reactant | acetic anhydride | 0.2 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | dimethylsulphoxide | 1 ml | CS(=O)C | C2H6OS
product | (6R,7R)-3-keto-7-phenylacetamidocepham | 22 mg | O=C1CS[C@H]2N(C1)C([C@H]2NC(CC2=CC=CC=C2)=O)=O | C14H14N2O3S
